### PR TITLE
[Merged by Bors] - chore(LinearAlgebra): process a first batch of porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Basis/Defs.lean [hunk 1]
```diff
@@ -364,8 +361,6 @@ def mapCoeffs (h : ∀ (c) (x : M), f c • x = c • x) : Basis ι R' M := by
   letI : Module R' R := Module.compHom R (↑f.symm : R' →+* R)
   haveI : IsScalarTower R' R M :=
     { smul_assoc := fun x y z => by
-        -- Porting note: `dsimp [(· • ·)]` is unavailable because
-        --               `HSMul.hsmul` becomes `SMul.smul`.
         change (f.symm x * y) • z = x • (y • z)
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Basis/Defs.lean:364]: So, this porting note still "applies" but you declare it wontfix, right? Same a few lines below.

File: Mathlib/LinearAlgebra/Quotient/Basic.lean [hunk 2]
```diff
@@ -220,11 +218,7 @@ theorem mapQ_pow {f : M →ₗ[R] M} (h : p ≤ p.comap f) (k : ℕ)
   induction' k with k ih
   · simp [LinearMap.one_eq_id]
   · simp only [LinearMap.iterate_succ]
-    -- Porting note: why does any of these `optParams` need to be applied? Why didn't `simp` handle
-    -- all of this for us?
-    convert mapQ_comp p p p f (f ^ k) h (p.le_comap_pow_of_le_comap h k)
-      (h.trans (comap_mono <| p.le_comap_pow_of_le_comap h k))
-    exact (ih _).symm
+    rw [mapQ_comp, ih]
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Quotient/Basic.lean:221]: Does the porting note still apply? Is it wontfix/not worth tracking?

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 3]
```diff
@@ -1603,7 +1602,6 @@ theorem exists_of_linearIndependent_of_finite_span {t : Finset V}
       have hb₁s' : b₁ ∉ s' := fun h => hb₁s <| hs' h
       have hst : s ∩ ↑t = ∅ :=
         eq_empty_of_subset_empty <|
-          -- Porting note: `-inter_subset_left, -subset_inter_iff` required.
           Subset.trans
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:1605]: This porting note still seems relevant.

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 4]
```diff
@@ -223,7 +223,6 @@ theorem span_image_eq_map_linearCombination (s : Set α) :
       by_cases h : c ∈ s
       · exact smul_mem _ _ (subset_span (Set.mem_image_of_mem _ h))
       · simp [(Finsupp.mem_supported' R _).1 hz _ h]
-    -- Porting note: `rw` is required to infer metavariables in `sum_mem`.
     rw [mem_comap, linearCombination_apply]
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:226]: Does this still apply? Is it worth mentioning?

**Review by grunweg — COMMENTED** [review]
Reviewed everything except Mathlib/LinearAlgebra/Dual.lean; I have a couple of question this time to check some decisions are intentional.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 5]
```diff
@@ -340,11 +336,9 @@ theorem toDual_injective : Injective b.toDual := fun x y h ↦ b.ext_elem_iff.mp
 theorem toDual_inj (m : M) (a : b.toDual m = 0) : m = 0 :=
   b.toDual_injective (by rwa [_root_.map_zero])
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/11036): broken dot notation https://github.com/leanprover/lean4/issues/1629 LinearMap.ker
 theorem toDual_ker : LinearMap.ker b.toDual = ⊥ :=
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Dual.lean:339]: I think dot notation not working if the type cannot be found is still something of a regression from Lean 3. I would keep this porting note (also below).

Also, if Yaël had their way, we'd be turning the `LinearMapClass` argument to `LinearMap.ker` back into a plain linear map, so dot notation would also work then.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 6]
```diff
@@ -1241,10 +1225,6 @@ noncomputable def quotEquivAnnihilator (W : Subspace K V) : (V ⧸ W) ≃ₗ[K]
   let φ := (Basis.ofVectorSpace K W).toDualEquiv.trans W.dualEquivDual
   let ψ := LinearEquiv.quotEquivOfEquiv φ (Basis.ofVectorSpace K V).toDualEquiv
   ψ ≪≫ₗ W.quotDualEquivAnnihilator
-  -- Porting note: this prevents the timeout; ML3 proof preserved below
-  -- refine' _ ≪≫ₗ W.quotDualEquivAnnihilator
-  -- refine' LinearEquiv.quot_equiv_of_equiv _ (Basis.ofVectorSpace K V).toDualEquiv
-  -- exact (Basis.ofVectorSpace K W).toDualEquiv.trans W.dual_equiv_dual
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Dual.lean:1247]: Agreed that the new proof is not worse than the old proof.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 7]
```diff
@@ -1832,7 +1799,6 @@ variable [Module R M] [Module R N]
 -/
 noncomputable def dualDistribInvOfBasis (b : Basis ι R M) (c : Basis κ R N) :
     Dual R (M ⊗[R] N) →ₗ[R] Dual R M ⊗[R] Dual R N :=
-  -- Porting note: ∑ (i) (j) does not seem to work; applyₗ needs a little help to unify
   ∑ i, ∑ j,
     (ringLmapEquivSelf R ℕ _).symm (b.dualBasis i ⊗ₜ c.dualBasis j) ∘ₗ
       (applyₗ (R := R) (c j)) ∘ₗ (applyₗ (R := R) (b i)) ∘ₗ lcurry R M N R
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Dual.lean:1804]: The type hints can indeed be removed (otherwise I would keep the "applyₗ needs a little help to unify" part of the porting note.)
```suggestion
      (applyₗ (c j)) ∘ₗ (applyₗ (b i)) ∘ₗ lcurry R M N R
```

**Review by Vierkantor — APPROVED** [review]
Managed to get through everything everything, including `LinearAlgebra.Dual`. I agree with @grunweg's comments.

bors d=@grunweg

File: Mathlib/LinearAlgebra/Quotient/Basic.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/Quotient/Basic.lean:221]: I guess it is slightly mysterious why we can't combine the `rw` into the `simp`. But I think this is minor, and not needing the huge convert is satisfactory.

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:226]: I'm confused how one would expect this to work without the `rw`, so I think it's fine to remove the porting note.

**Comment by adomani** [comment]
Testing out the action, since I cannot find Anne's action.

bors d=@grunweg

File: Mathlib/LinearAlgebra/Dual.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Dual.lean:339]: That is true. I was thinking that if we make that change, then we would need a systematic refactor anyways, and these few porting notes wouldn't be too helpful.

File: Mathlib/LinearAlgebra/Basis/Defs.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Basis/Defs.lean:364]: Yup, indeed.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 8]
```diff
@@ -1832,7 +1799,6 @@ variable [Module R M] [Module R N]
 -/
 noncomputable def dualDistribInvOfBasis (b : Basis ι R M) (c : Basis κ R N) :
     Dual R (M ⊗[R] N) →ₗ[R] Dual R M ⊗[R] Dual R N :=
-  -- Porting note: ∑ (i) (j) does not seem to work; applyₗ needs a little help to unify
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Dual.lean:1835]:
```suggestion
  -- Porting note: ∑ (i) (j) does not seem to work; applyₗ needs a little help to unify
```

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 9]
```diff
@@ -1603,7 +1602,6 @@ theorem exists_of_linearIndependent_of_finite_span {t : Finset V}
       have hb₁s' : b₁ ∉ s' := fun h => hb₁s <| hs' h
       have hst : s ∩ ↑t = ∅ :=
         eq_empty_of_subset_empty <|
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:1604]:
```suggestion
        eq_empty_of_subset_empty <|
          -- Porting note: `-inter_subset_left, -subset_inter_iff` required.
```

File: Mathlib/LinearAlgebra/Dual.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Dual.lean:339]: Hmm, I suppose there are indeed many more places where we would have to reapply dot notation. But I still prefer those places to be easily findable, and a porting note is one method. As long as there is some useful way to find dotnotationifiable occurrences, I'm not going to block merging this PR over this.

Comment (kim-em) [reply Mathlib/LinearAlgebra/Dual.lean:339]: Yeah, I think we can find this automatically later if it becomes relevant.

**Comment by kim-em** [comment]
bors merge
